US07956010B2
To a mixture of 20 ml of methanol and 20 ml of a 15% aqueous sodium hydroxide solution was added 7.3 g of 2-propynyl 2,5-difluoro-4-(2-propynyloxy)benzoate, and the mixture was stirred at 50° C. for 2 hours. The reaction mixture was added to hydrochloric acid, and a produced solid was collected by filtration. The solid was dried and then washed with hexane, and 3.8 g of 2,5-difluoro-4-(2-propynyloxy)benzoic acid was obtained.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-propynyl 2,5-difluoro-4-(2-propynyloxy)benzoate | 7.3 g | FC1=C(C(=O)OCC#C)C=C(C(=C1)OCC#C)F | C13H8F2O3
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 2,5-difluoro-4-(2-propynyloxy)benzoic acid | 3.8 g | FC1=C(C(=O)O)C=C(C(=C1)OCC#C)F | C10H6F2O3
